US07449601B2
This example illustrates the formation of di-1-adamantylphosphine oxide from di-1-adamantylphosphinic chloride in two steps, the first step resulting in the formation of di-1-adamantylphosphine.

reactant | di-1-adamantylphosphine oxide | C12(CC3CC(CC(C1)C3)C2)P(C23CC1CC(CC(C2)C1)C3)=O | C20H31OP
reactant | di-1-adamantylphosphinic chloride | C12(CC3CC(CC(C1)C3)C2)P(=O)(C23CC1CC(CC(C2)C1)C3)Cl | C20H30ClOP
product | di-1-adamantylphosphine | C12(CC3CC(CC(C1)C3)C2)PC23CC1CC(CC(C2)C1)C3 | C20H31P
